US07745641B2
In a similar manner to Step 1 of Reference Example 18, 5-[4-(2-hydroxyethyl)-1-piperazinylmethyl]-1-(tert-butoxycarbonyl)indole (5.02 g, 14.0 mmol) was dissolved in DMF (50 mL), and the solution was treated with imidazole (1.43 g, 21.0 mmol) and tert-butyldimethylsilyl chloride (3.16 g, 21.0 mmol) to obtain 5-(4-[2-(tert-butyldimethylsilyloxy)ethyl]-1-piperazinylmethyl)-1-(tert-butoxycarbonyl)indole (5.97 g, yield 90%).

reactant | 5-[4-(2-hydroxyethyl)-1-piperazinylmethyl]-1-(tert-butoxycarbonyl)indole | 14.0 mmol, 5.02 g | OCCN1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C20H29N3O3
reactant | imidazole | 21.0 mmol, 1.43 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 21.0 mmol, 3.16 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-(4-[2-(tert-butyldimethylsilyloxy)ethyl]-1-piperazinylmethyl)-1-(tert-butoxycarbonyl)indole | 5.97 g, yield 90% | [Si](C)(C)(C(C)(C)C)OCCN1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C26H43N3O3Si
